* E:\Tristan\GitHub\Bluetooth-Speaker-Senior-Design\docs\LTSPice Schematics\ATmega_BM83\Draft1.asc
V1 N001 0 5
R1 N001 N002 3.4k
R3 N002 0 6.6k
.model D_ZENER D(BV=2V IBV=0.1mA)
.tran 1
.backanno
.end
