* C:\Users\rhern\OneDrive\Documents\15-Fall 2024\EE 492\Bluetooth-Speaker-Senior-Design\docs\LTSPice Schematics\Power Distribution Jack\PD Jack.asc
D1 N002 0 D
R1 N002 N001 1k
V1 N001 0 18
.model D D
.lib C:\Users\rhern\AppData\Local\LTspice\lib\cmp\standard.dio
.op
.backanno
.end
